US05523302
121a) N-t-Butyloxycarbonyl-N-methyl-2-aminoethanol
A solution of di-t-butyl dicarbonate (10 g, 46 mmol) in EtOH (40 mL) was added dropwise over 50 min to a solution of 2-(methylamino)ethanol (4.0 mL, 50 mmol) in EtOH (40 mL) with stirring in an ice bath. The mixture was stirred for 2 h at 0 ° C., then 17.5 h at room temperature. After evaporation of solvent, the mixture was extracted with EtOAc and water, then brine. Drying (MgSO4), filtration, and evaporation yielded a colorless oil (7.4 g). IR (film) cm-1 3448, 1698. 1H NMR (300 MHz, CDCl3): 3.77-3.71 (m, 2H), 3.40-3.37 (m, 2H), 2.91 (s, 3H), 1.45 (s, 9H). Anal. Calc'd for C8H17NO3 : C, 54.84; H, 9.78; N, 7.99; Found: C, 54.58; H, 9.50; N, 7.89. MS(NH3): 193 (76%, M+NH4), 176 (base, M+H).

reactant | di-t-butyl dicarbonate | 46 mmol, 10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(methylamino)ethanol | 50 mmol, 4.0 mL | CNCCO | C3H9NO
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | EtOH | 40 mL | CCO | C2H6O
product | N-t-Butyloxycarbonyl-N-methyl-2-aminoethanol | 7.4 g | C(C)(C)(C)OC(=O)N(CCO)C | C8H17NO3
